US07816540B2
c) 1-(3-Fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid methyl ester
The solution of 7.5 g (22.3 mmol) 4-bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid methyl ester in 100 mL tetrahydrofuran was cooled to −15° C. and 2.63 g (23.4 mmol) potassium tert-butoxide were added. The cooling bath was removed and the reaction was stirred for 5 h at room temperature. The dark solution was poured 200 mL ethyl acetate and 200 mL aqueous hydrochloric acid, extracted and the phases were separated. The organic layer was washed with brine and the aqueous layers extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography on silica gel using an MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane:ethyl acetate (100:30 to 70:30 v/v) to afford the title compound as a light yellow oil (79%).

reactant | 4-bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid methyl ester | 22.3 mmol, 7.5 g | COC(C(CCBr)OC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C11H11BrFNO5
reactant | potassium tert-butoxide | 23.4 mmol, 2.63 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(3-Fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid methyl ester | 79% | COC(=O)C1(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C11H10FNO5
